US04939170
EXAMPLE A7: 2,6-Dichloro-3,5-difluoro-4-amino-phenol
18 g of 2,6-dichloro-3,5-difluoro-4-nitrophenol are hydrogenated in 100 ml of methanol in the presence of 1.5 g of Raney nickel at 25°-45° C. using 30-50 bar of hydrogen until the take-up of hydrogen is complete. After filtration, the solution is freed from solvent under recuced pressure. 13 g of aminophenol (GC purity 98.4%) remain; m.p. 151° C.

reactant | 2,6-dichloro-3,5-difluoro-4-nitrophenol | 18 g | ClC1=C(C(=C(C(=C1F)[N+](=O)[O-])F)Cl)O | C6HCl2F2NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
product | 2,6-Dichloro-3,5-difluoro-4-amino-phenol | ClC1=C(C(=C(C(=C1F)N)F)Cl)O | C6H3Cl2F2NO
